US06316482B1
To a solution of methyl 2-methyl-1H-benzimidazole-4-carboxylate (250 mg) in N,N-dimethylformamide (4 ml) were added potassium carbonate (363 mg) and n-propyl bromide at ambient temperature and the mixture was stirred at the same temperature for 2 days. The reaction mixture was poured into water and the aqueous solution was extracted with ethyl acetate. The organic layer was washed with water and brine and the solution was dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (1:1˜1:2˜1:3˜ethyl acetate only) to give methyl 2-methyl-1-propyl-1H-benzimidazole-4-carboxylate (173 mg) as an oil.

reactant | methyl 2-methyl-1H-benzimidazole-4-carboxylate | 250 mg | CC1=NC2=C(N1)C=CC=C2C(=O)OC | C10H10N2O2
reactant | potassium carbonate | 363 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-propyl bromide | CCCBr | C3H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | methyl 2-methyl-1-propyl-1H-benzimidazole-4-carboxylate | 173 mg | CC1=NC2=C(N1CCC)C=CC=C2C(=O)OC | C13H16N2O2
